Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
"My lawyer is has made error on my taxes costing me over 
$100,000." 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o female with unclear psychiatric history who was BIBA 
after
the lawyer she was meeting with today, ___, called
the police because he was concerned for her safety.  The patient
reports that she has been upset with this lawyer, because he has
made "egregious errors" that are the cause of my "distress." 
When asked if she has ever been arrested she says "not that I
know of..."  She says that she feels her mood is as usual, that
she has good energy level, denies having extra powers, admits to
feeling irritable, says she is sleeping "the normal amount" but
doesn't elaborate.  Also denies anxiety, AVH, or IOR.  She said
that she came back from ___ to fix the problems with her
taxes.  She was, unable to explain, how the lawyer was
responsible for making her owe this money.  She says that "it is
a federal case, congressman ___ knows about it."  When asked 
for
collateral sources she became concerned that I would "leak
information that would be used against her."  

Spoke to her Dr. ___, who describes himself as a
family friend.  He says that he spoke to her on the phone and 
she
told him "that I will kill myself if I can't get this business
with my lawyer ___ out."  He describes her as a "very
volatile person" and he is very concerned that she might hurt
herself.  He added that her son, who is living with her parents
in ___ "was the thing that helped her hold it together in
the past, but he is not here."  
 
Past Medical History:
asthma
 
Social History:
___
Family History:
denies
 
Physical Exam:
Physical exam unremarkable.

     APPEARANCE & FACIAL EXPRESSION:  thin woman, wide eyed,
intense countenance, typing on PDA during interview, guarded.  
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
moderately pressured, gets annoyed when interupted, irritable
tone, loud volume.  
     MOOD:  "fine, Dr."
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.): 
irritable, odd
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.):  over inclusive
of details, vague.  
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.):  paranoid ideations about her lawyer, "the
system", denies AVH, denies SI/HI.  
          INSIGHT AND JUDGMENT:  poor/poor
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT):  alert
          ORIENTATION:  x3
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.):  MOYB
intact
          MEMORY (SHORT- AND LONG-TERM):  ___ reg and recall.  
          CALCULATIONS:  intact 2.25 is 9 quarters.  
         
          PROVERB INTERPRETATION:  Grass greener: "that's
optimistic..."  
          
VS:  98.2, 100, 127/88, 16, 100%RA

 
Pertinent Results:
___ 04:35PM   TSH-2.6
___ 04:35PM   HCG-<5
___ 04:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 04:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:35PM   GLUCOSE-110* UREA N-11 CREAT-0.9 SODIUM-136 
POTASSIUM-3.5 CHLORIDE-106 TOTAL CO2-23 ANION GAP-11
___ 04:35PM   ALT(SGPT)-37 AST(SGOT)-25 ALK PHOS-74 TOT 
BILI-0.2
___ 04:35PM   ALBUMIN-4.2
___ 04:35PM   WBC-12.0* RBC-4.82 HGB-15.0 HCT-44.7 MCV-93 
MCH-31.1 MCHC-33.5 RDW-13.4
___ 04:35PM   PLT COUNT-489*

 
Brief Hospital Course:
1.  Legal: ___
2.  Psychiatric:  Patient's initial presentation seemed 
consistent with a bipolar spectrum given her evidence of thought 
disorder characterized primarily by paranoia, mild grandiosity, 
and tangential thought flow.  She continued to perseverate on 
the financial and legal matters with her lawyer and attributed 
her admission here to others questioning her "credibility" in 
regards to this case.  Patient states she did not make an overt 
suicidal statement to her lawyer but alluded to a "catastrophe" 
that would result if things were not resolved.  Upon speaking to 
the lawyer however, he states that she said told him over the 
phone that if she did not receive the money owed her within 48 
hours, she "saw no reason to go on living" at which time he 
notified ___ police.  Upon speaking further with the 
lawyer as well as a close acquaintance of the patient, it 
appears that the patient has a long history of affective 
dysregulation in the face of psychosocial stressors.  She has 
reportedly had assault and battery charges cited against her for 
striking a neighbor(later dropped), a restraining order by a 
former therapist who had terminated their therapeutic 
relationship, and a ___ employment history as a result of 
repeated conflicts with employers.  She also had a brief stay at 
___ at which time the diagnosis of BPAD was first 
used.  We attempted to obtain the records from this admission 
but they are still unavailable at time of discharge.

Here, the patient attended and was an active participant in 
groups.  She was very visible on the unit, and was pleasant and 
cooperative with staff and other patients.  She also underwent 
psychiatric testing with the ___ showing a subnormative profile 
and strong tendency to deny all symptoms.  We recommended 
starting abilify for mood stabilization and symptoms of 
psychosis, but patient declined this stating she did not feel 
like she needed it now but would perhaps consider it in the 
future once an alliance with an outpatient provider was 
established.  
3.  Medical: Patient was continued on an albuterol inhaler as 
needed for her asthma symptoms.
4.  Dispo:  Patient is safe and stable for discharge.  She plans 
to return to the hotel where she was staying to get her affairs 
in order and her future housing in ___ sorted out.  She will 
then return to ___ until her son finishes out the school 
year, at which point they will come back to ___ likely at the 
beginning of ___.  She plans to pursue employment here.  Is 
agreeable to following up at The Therapy Center (___) 
in ___ for outpatient care.
 
Medications on Admission:
ventolin daily
 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for SOB.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: bipolar nos with psychotic features
Axis II: deferred 
Axis III: asthma
Axis IV: psychosocial stressors
Axis V: 55

 
Discharge Condition:
safe and stable for discharge

MSE:
Gen: WDWN woman, well-groomed/dressed, pleasant and cooperative
Speech: regular rate and rhythm, verbose
Mood: 'relaxed'
Affect: appropriately reactive
Thought flow: linear
Though content: no SI/HI, no AH/VH, +paranoia, perseverates on 
financial/legal issues
I/J: limited
Cognition: A&Ox3

 
Discharge Instructions:
1.  If you feel unsafe to yourself or others, please call ___ or 
come to the ER immediately.
2.  Please follow up with The ___ Center (___) for 
outpatient mental health treatment.

 
Followup Instructions:
___